US08008303B2
(S)-2-(4′-Carboxy-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of (S)-2-(4′-Ethoxycarbonyl-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester (188 mg) in ethanol (15 ml) and sodium hydroxide (2M, 5 ml) was stirred at room temp for 18 h. The mixture was acidified and the ethanol evaporated. The residue was extracted with DCM and the dried extracts evaporated giving the crude acid as a pale orange gum (154 mg).

reactant | (S)-2-(4′-Ethoxycarbonyl-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester | 188 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(=O)OCC)=O | C25H27F3N2O6
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2M, 5 ml | [OH-].[Na+]
product | (S)-2-(4′-Carboxy-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester | 154 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(=O)O)=O | C23H23F3N2O6
